US08067445B2
Step 1: {4′-Acetylamino-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 39, Step 1, using the following starting materials: {4′-amino-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester and acetyl chloride.

reactant | {4′-amino-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)N)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H32N2O5
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | {4′-Acetylamino-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)NC(C)=O)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C30H34N2O6
